US09171676B2
VI.1. Diethyl 2,5-di(thiophen-2-yl)terephthalate (1)
Diethyl 2,5-dibromoterephthalate (4.27 g, 11.24 mmol) and 2-thienylzinc bromide (0.5 M in THF, 50 ml, 25 mmol) are introduced into a two necked flask. The catalyst palladium tetrakis(triphenylphosphine) (Pd(PPh3)4) is then introduced into the two necked flask. The mixture thereby obtained is heated to reflux (70° C.) for 3 h. After a return to ambient temperature, the reaction mixture is poured into a saturated solution of NH4Cl. The product is extracted with ethyl acetate (3×100 ml). The extracts are combined and washed with water then dried on Na2SO4. After filtration, the solvent is removed under reduced pressure. The crude product is purified on chromatography column (silica gel, hexane/dichloromethane, 10:1, v/v)) to provide a white solid (3.5 g, 80%).

reactant | Diethyl 2,5-dibromoterephthalate | 11.24 mmol, 4.27 g | BrC1=C(C(=O)OCC)C=C(C(=C1)C(=O)OCC)Br | C12H12Br2O4
reactant | 2-thienylzinc bromide | 25 mmol, 0.5 M, 50 ml | [Br-].S1C(=CC=C1)[Zn+]
reactant | NH4Cl | [NH4+].[Cl-]
catalyst | palladium tetrakis(triphenylphosphine) | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | Diethyl 2,5-di(thiophen-2-yl)terephthalate | 3.5 g, 80% | S1C(=CC=C1)C1=C(C(=O)OCC)C=C(C(=C1)C(=O)OCC)C=1SC=CC1 | C20H18O4S2
